US09079866B2
2-((2-Bromophenyl)sulfonyl)-1-morpholinoethanone
The title compound was prepared in a manner similar to that described for 2-((2-bromophenyl)sulfonyl)acetamide using 2-chloro-1-morpholinoethanone in Step A. 1H NMR (600 MHz, DMSO-d6) δ 8.06-8.01 (m, 1H), 7.93-7.88 (m, 1H), 7.68-7.60 (m, 2H), 4.84 (s, 2H), 3.63-3.55 (m, 4H), 3.53-3.48 (dd, J=5.6, 4.0, 2H), 3.42-3.37 (d, J=5.2, 2H).

reactant | 2-((2-bromophenyl)sulfonyl)acetamide | BrC1=C(C=CC=C1)S(=O)(=O)CC(=O)N | C8H8BrNO3S
reactant | 2-chloro-1-morpholinoethanone | ClCC(=O)N1CCOCC1 | C6H10ClNO2
product | 2-((2-Bromophenyl)sulfonyl)-1-morpholinoethanone | BrC1=C(C=CC=C1)S(=O)(=O)CC(=O)N1CCOCC1 | C12H14BrNO4S
